US09359298B2
Preparation of 1,3-dimethoxy-5-[(E)-3-phenylpropen-1-yl]benzene (21a)
Use diethyl 3,5-dimethoxybenzyl phosphate and phenylacetaldehyde as materials, and follow the method described in Example 5 to obtain a pale yellow solid as the target product (78%). 1H NMR (400 MHz, DMSO-d6): 3.22 (d, J=7.6 Hz, 2H), 3.79 (s, 6H), 6.25 (s, 1H), 6.34 (d, J=16.0 Hz, 1H), 6.66 (m, 1H), 6.72 (s, 2H), 7.16 (m, 3H), 7.27 (m, 2H).

reactant | diethyl 3,5-dimethoxybenzyl phosphate | P(=O)(OCC)(OCC)OCC1=CC(=CC(=C1)OC)OC | C13H21O6P
reactant | phenylacetaldehyde | C1(=CC=CC=C1)CC=O | C8H8O
product | 1,3-dimethoxy-5-[(E)-3-phenylpropen-1-yl]benzene | 78% | COC1=CC(=CC(=C1)\C=C\CC1=CC=CC=C1)OC | C17H18O2
